US09315490B2
1b) (3-(Methylthio)-1H-indol-6-yl)(morpholino)methanone
Dimethylsulfane (8.17 mL, 109.32 mmol, 1.1 eq) was added dropwise to a stirred suspension of N-chlorosuccinimide (14.53 g, 109.32 mmol, 1.1 eq) in dichloromethane (50 mL) at 0° C. The reaction mixture was cooled to −20° C. and (1H-indol-6-yl)(morpholino)methanone (16.0 g, 99.37 mmol, 1.0 eq) in dichloromethane (120 mL) was added dropwise. After stirring for 1 h at room temperature, the solvent was evaporated and replaced by xylene (100 mL). The mixture was refluxed for 1 h, cooled to ambient temperature and then passed through a silica gel column [100-200 mesh, methanol/dichloromethane=1:19]. The product (16.0 g) obtained was used without further purification.

reactant | Dimethylsulfane | 109.32 mmol, 8.17 mL, 1.1 eq | CSC | C2H6S
reactant | N-chlorosuccinimide | 109.32 mmol, 14.53 g, 1.1 eq | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | (1H-indol-6-yl)(morpholino)methanone | 99.37 mmol, 16.0 g, 1.0 eq | N1C=CC2=CC=C(C=C12)C(=O)N1CCOCC1 | C13H14N2O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | (3-(Methylthio)-1H-indol-6-yl)(morpholino)methanone | 16.0 g | CSC1=CNC2=CC(=CC=C12)C(=O)N1CCOCC1 | C14H16N2O2S
